US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-nitropyrimidine with 3,4-dimethoxyaniline gave N2,N4-bis-(3,4-dimethoxyphenyl)-5-nitro-2,4-pyrimidinediamine. LCMS: ret. time: 28.30 min.; purity: 100%; MS (m/e): 428 (MH+); 1H NMR (CDCl3): δ 10.30 (1H, s), 9.14 (1H, s), 7.52 (1H, s), 7.08 (3H, m), 7.00 (1H, d, J=8.4 Hz), 6.84 (1H, d, J=8.4 Hz), 6.76 (1H, d, J=8.4 Hz), 3.90 (3H, s), 3.87 (3H, s), 3.68 (3H, s), 3.60 (3H, s).

reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
product | N2,N4-bis-(3,4-dimethoxyphenyl)-5-nitro-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C20H21N5O6
